US07544812B2
A 0° C. solution of compound [1-(3,4-dimethyl-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester (2.24 g, 7.71 mmol) in DMF (30 mL) was treated with sodium hydride (60% dispersion, 0.37 g, 9.25 mmol) and warmed to room temperature and stirred under N2 for 20 minutes. The resultant mixture was cooled to 0° C. and then treated with 4-methoxybenzyl chloride (2.41 g, 15.4 mmol) and then warmed to room temperature and stirred for 16 h. The reaction was quenched with 25 mL of aqueous 1 N HCl and then worked up extractively with Et2O and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to give crude product that was purified by flash chromatography using a gradient of 5:1 hexanes:actetone to afford 3.23 g (100%) [1-(3,4-dimethyl-benzyl)-3-(4-methoxy-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester. MS (ES+) Calc'd for C23H26N2O5 (M+1) 411. Found m/z. 411 (100%). 1H NMR.

reactant | [1-(3,4-dimethyl-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester | 7.71 mmol, 2.24 g | COC(CC1NC(N(C1=O)CC1=CC(=C(C=C1)C)C)=O)=O | C15H18N2O4
reactant | sodium hydride | 9.25 mmol, 0.37 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 15.4 mmol, 2.41 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [1-(3,4-dimethyl-benzyl)-3-(4-methoxy-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester | 3.23 g, 100% | COC(CC1N(C(N(C1=O)CC1=CC(=C(C=C1)C)C)=O)CC1=CC=C(C=C1)OC)=O | C23H26N2O5
